US05091384
Preparation of 1-cyclopropyl-6,8-difluoro-7-[7-ethyl-3,7-diazabicyclo [3.3.0] oct-1(5)-en-3-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
To a solution of 1-cyclopropyl 6,8-difluoro-7-[3,7-diazabicyclo [3.3.0]-oct-1(5)-en-3-yl]-1,4-dihydro-4-oxoquinoline-3-carboxyl-ic acid (0.37 g) in dimethyl formamide (30 ml), which was prepared in Example 11, ethyliodide (0.17 g) and potassium carbonate (powder, 1 g) were added and stirred at room temperature for 24 hours. To the reaction mixture, water (100 ml) was added and the precipitate was filtered. The filter cake was purified by silica gel column chromatography (CHCl3 :methanol:acetic acid=6:3:1) to give the title compound (0.21 g, yield 52%).

reactant | 1-cyclopropyl 6,8-difluoro-7-[3,7-diazabicyclo [3.3.0]-oct-1(5)-en-3-yl]-1,4-dihydro-4-oxoquinoline-3-carboxyl-ic acid | 0.37 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2CNCC2C1)F)=O)C(=O)O | C19H17F2N3O3
reactant | ethyliodide | 0.17 g | C(C)I | C2H5I
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-6,8-difluoro-7-[7-ethyl-3,7-diazabicyclo [3.3.0] oct-1(5)-en-3-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.21 g, yield 52% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2CN(CC2C1)CC)F)=O)C(=O)O | C21H21F2N3O3
